US05508408
Example 22: 4-[3-(7-trifluoromethoxy-2-quinolinylmethoxy)phenylamino]-2,2-diethyl-4-oxobutanoic acid
3-(7-trifluoromethoxy-2-quinolinylmethoxy)aniline: 0.175 g of NaH (95%) is added at 0° to a solution of 0.754 g of 3-aminophenol in 20 ml of DMF and then the batch is stirred for 30 min. at 0°. 1.78 g of 2-chloromethyl-7-trifluoromethoxy-quinoline in solid form are then added and the batch is stirred for a further one hour at 0° and for another hour at 20°. It is then diluted with ethyl acetate, washed with water, dried over Na2SO4 and concentrated by evaporation. The evaporation residue is chromatographed on 100 g of silica gel. The product-containing fractions eluted with toluene/ethyl acetate 98:2 and 95:5 are combined and concentrated by evaporation to give the title compound which is further purified by crystallisation from CH2Cl2 /ether/hexane.

reactant | 3-(7-trifluoromethoxy-2-quinolinylmethoxy)aniline | FC(OC1=CC=C2C=CC(=NC2=C1)COC=1C=C(N)C=CC1)(F)F | C17H13F3N2O2
reactant | NaH | 0.175 g | [H-].[Na+]
reactant | 3-aminophenol | 0.754 g | NC=1C=C(C=CC1)O | C6H7NO
reactant | 2-chloromethyl-7-trifluoromethoxy-quinoline | 1.78 g | ClCC1=NC2=CC(=CC=C2C=C1)OC(F)(F)F | C11H7ClF3NO
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | DMF | 20 ml | CN(C)C=O | C3H7NO
product | 4-[3-(7-trifluoromethoxy-2-quinolinylmethoxy)phenylamino]-2,2-diethyl-4-oxobutanoic acid | FC(OC1=CC=C2C=CC(=NC2=C1)COC=1C=C(C=CC1)NC(CC(C(=O)O)(CC)CC)=O)(F)F | C25H25F3N2O5
